US04892966
2.16 g (10 mmol) of methyl 4-methoxy-2-[1-methylacetonyl]-acetoacetate are held at reflux temperature for 2 hours with 21.2 ml (5 mmol) of 2.5% Na2CO3 solution. The reaction mixture is extracted 3 times with 25 ml of CH2Cl2 each time. The combined organic phases are dried over magnesium sulphate and concentrated on a rotary evaporator to give 1.40 g (100%) or 2-methoxy-3,4-dimethyl-2-cyclopenten-1-one, content 96%.

reactant | methyl 4-methoxy-2-[1-methylacetonyl]-acetoacetate | 10 mmol, 2.16 g | COCC(C(C(=O)OC)C(C(=O)C)C)=O | C10H16O5
reactant | Na2CO3 | 5 mmol, 21.2 ml | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-methoxy-3,4-dimethyl-2-cyclopenten-1-one | COC=1C(CC(C1C)C)=O | C8H12O2
